US04233302
B. 2-[2-[(5-Formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione
Phosphorus oxychloride (6.4 g) was added to a stirred solution of 2-[2-[(2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione (6.0 g) in dry dimethylformamide. After stirring for 2 hr at 0° C. and at room temperature for 12 hr, the mixture was poured into stirred ice-cold water (500 ml). The precipitated solid was collected and crystallised from propan-2-ol yielding the title compound as brown micro-needles (5.6 g) m.p. 77°-79°.

reactant | Phosphorus oxychloride | 6.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-[2-[(2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione | 6.0 g | O1C(=CC=C1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C15H13NO3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2-[(5-Formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione | C(=O)C1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
